US06864265B2
To a solution of N-benzyl-2-[2-(hydroxymethyl)-pyridin-3-yl]-acetamide (357 mg, 1.5 mmol) in THF (2 mL) was added borane in THF (5 mL of a 1.0 M solution, 5 mmol) and the mixture heated at 50° C. for 3 h. The reaction was cooled, quenched with MeOH (5 mL) and heated at 50° C. for 1 h. The resultant mixture was cooled, concentrated under reduced pressure, diluted with 3 N HCl (5 mL) and heated at 80° C. for 6 h. After cooling, an aqueous 15% NaOH solution was added until a basic pH (pH=13) was obtained and the mixture was extracted with CH2Cl2 (3×10 mL). The phases were separated and the combined organic fractions were dried (Na2SO4), concentrated under reduced pressure and purified by column chromatography on silica gel (CH2Cl2/MeOH/NH4OH, 100:10:1) to afford benzyl-2-[2-(hydroxymethyl)-pyridin-3-yl]-ethylamine (86 mg, 41%) as a yellow oil. 1H NMR (CDCl3) 2.75 (t, 2H, J=6.8 Hz), 2.88 (t, 2H, J=6.8 Hz), 4.75 (s, 2H), 7.18-7.34 (m, 6H), 7.50 (d, 1H, J=7.8 Hz), 8.43 (d, 1H, J=4.9 Hz). ES-MS m/z 243 (M+H).

reactant | N-benzyl-2-[2-(hydroxymethyl)-pyridin-3-yl]-acetamide | 1.5 mmol, 357 mg | C(C1=CC=CC=C1)NC(CC=1C(=NC=CC1)CO)=O | C15H16N2O2
reactant | borane | B | BH3
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | benzyl-2-[2-(hydroxymethyl)-pyridin-3-yl]-ethylamine | 86 mg, 41% | C(C1=CC=CC=C1)NCCC=1C(=NC=CC1)CO | C15H18N2O
